US05569674
Bis-(3-Isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate (38.3 g) and 6.33 g of copper bronze are stirred in 150 ml dichloromethane and cooled in an ice water bath. A solution of 10.37 g of 2,6-dichloro-4-nitrophenol and 5.5 g of triethylamine is added dropwise. The mixture is stirred in the dark at room temperature for three days, then filtered through Celite to remove copper. The filtrate is stripped and the residue chromatographed on silica gel with 97:3 to 95:5 hexane-ethylacetate as eluent to give 3,5-dichloro-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene, m.p. 75°-7°.

reactant | Bis-(3-Isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate | 38.3 g | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
reactant | 2,6-dichloro-4-nitrophenol | 10.37 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)O | C6H3Cl2NO3
reactant | triethylamine | 5.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | copper bronze | 6.33 g | [Cu] | Cu
product | 3,5-dichloro-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)[N+](=O)[O-] | C16H15Cl2NO4
